US05273991
A suspension of N-(N',N'-dimethylamino)-1-methyl-4-nitroimidazole-2-carboxamide (2.01 g, 9.4 mmol) and 5% Pd on charcoal (0.8 g) in chilled methanol (100 mL) was purged of air and hydrogenated at room temperature and atmospheric pressure for 4 hours. The catalyst was removed by filtration and the solvent was evaporated under reduced pressure to give N-(N',N'-dimethylamino)-1-methyl-4-aminoimidazole-2-carboxamide as a glassy solid which is unstable and used directly in the next step.

reactant | N-(N',N'-dimethylamino)-1-methyl-4-nitroimidazole-2-carboxamide | 9.4 mmol, 2.01 g | CN(C)NC(=O)C=1N(C=C(N1)[N+](=O)[O-])C | C7H11N5O3
solvent | methanol | 100 mL | CO | CH4O
catalyst | Pd on charcoal | 0.8 g | [Pd] | Pd
product | N-(N',N'-dimethylamino)-1-methyl-4-aminoimidazole-2-carboxamide | CN(C)NC(=O)C=1N(C=C(N1)N)C | C7H13N5O
